US07348343B2
ethyl 1,2,3,6-tetrahydro-4-pyridinecarboxylate
1-(1-Chloroethyl) 4-ethyl 3,6-dihydro-1,4(2H)-pyridinedicarboxylate (61.8 g, 236 mmol) in methanol (500 mL) was heated at reflux for 30 minutes. The mixture was allowed to cool to room temperature and concentrated to provide the title compound. 1H NMR (300 MHz, CDCl3) δ 6.86 (m, 1H), 4.22 (q, 2H), 3.85 (m, 2H), 3.34 (m, 2H), 2.75 (m, 2H), 1.30 (t, 3H).

reactant | 1-(1-Chloroethyl) 4-ethyl 3,6-dihydro-1,4(2H)-pyridinedicarboxylate | 236 mmol, 61.8 g | N1(CCC(=CC1)C(=O)OCC)C(=O)OC(C)Cl | C11H16ClNO4
solvent | methanol | 500 mL | CO | CH4O
product | ethyl 1,2,3,6-tetrahydro-4-pyridinecarboxylate | N1CCC(=CC1)C(=O)OCC | C8H13NO2
